US08633173B2
5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (3.00 g, 14.0 mmol) and 3-methanesulfonyl phenyl boronic acid (3.08 g, 15.0 mmol), in a manner analogous to Step 73c. The residue was purified on a 80 g Isco silica gel column using a gradient of 0-20% methanol in dichloromethane as an eluent. 5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (2.10 g, 52%) was isolated as a beige powder.

reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 14.0 mmol, 3.00 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | 3-methanesulfonyl phenyl boronic acid | 15.0 mmol, 3.08 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.10 g, 52% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
